US04379785
0.5 g N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamide)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-isourea methyl ether (m.p. 138°-140° C., prepared by desulfurization of N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-thiourea with mercury oxide in the presence of methanol) is dissolved in 5 ml of dioxan, and heated for a short time on a steam bath with 2 ml of concentrated hydrochloric acid. Subsequently, the water is added to the reaction mixture, the product is suction-filtered, reprecipitated from dilute ammonia and recrystallized from dilute acetone. The N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea obtained has a melting point of 176°-178° C. and, with the substance obtained according to Example 8, shows no depression.

reactant | N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl-thiourea | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=S)NC1CCCCC1)=O | C22H32N4O4S2
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | water | O | H2O
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
catalyst | mercury oxide | [Hg]=O
product | N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-cyclohexyl urea | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCCCC1)=O | C22H32N4O5S
